US04518713
1-{2-{N-{3-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-phenoxypiperidine dihydrochloride
To a suspension of 1.9 g (25.1 mmol) of lithium aluminum hydride (50% in oil; washed three times with hexane) in 75 ml dry THF, cooled by an ice bath, was added dropwise a solution of 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-phenoxypiperidine (from above) in 75 ml of dry THF. The suspension was heated at reflux for 12 hours and allowed to cool to room temperature. To the mixture, in an ice bath were added slowly dropwise 1 ml of water, 1 ml of 15% NaOH and 3 ml of water. The mixture was filtered and washed with THF. The solvent was evaporated from the filtrate to provide an oil which was extracted with ether and washed with saturated sodium chloride. The solution was dried over potassium carbonate and filtered to provide an oil. The overall yield of the dihydrochloride was 7.47 g (82.0%).

reactant | lithium aluminum hydride | 25.1 mmol, 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-phenoxypiperidine | FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CC(=O)N1CCC(CC1)OC1=CC=CC=C1 | C26H33FN2O4
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 1-{2-{N-{3-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-phenoxypiperidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CCN1CCC(CC1)OC1=CC=CC=C1 | InChI=1S/C26H35FN2O3.2ClH/c1-28(15-5-14-26(30-20-21-31-26)22-8-10-23(27)11-9-22)18-19-29-16-12-25(13-17-29)32-24-6-3-2-4-7-24;;/h2-4,6-11,25H,5,12-21H2,1H3;2*1H
